US06020345
Stage 4: 2-thiazol-2-yl-6-[1,3]dioxolan-2-yl-pyridine
10 g of nickel peroxide hydrate are added in 1 g portions over 20 hours to a solution of 1.33 g of 2-(4,5-dihydrothiazol-2-yl)-6-[1,3]dioxolan-2-yl-pyridine (5.62 mmol) in 50 ml of benzene maintained under reflux with removal of the water formed continuously. The insoluble matter is removed by filtration on celite and then the solvent is evaporated off. The title product is isolated by chromatography on a silica column (eluent: chloroform/ethyl acetate; 85:15). 0.42 g of a white solid is recovered.

reactant | 2-(4,5-dihydrothiazol-2-yl)-6-[1,3]dioxolan-2-yl-pyridine | 5.62 mmol, 1.33 g | S1C(=NCC1)C1=NC(=CC=C1)C1OCCO1 | C11H12N2O2S
reactant | water | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | nickel peroxide hydrate | 10 g | O.OO.[Ni]
product | 2-thiazol-2-yl-6-[1,3]dioxolan-2-yl-pyridine | Yield: 31.5% | S1C(=NC=C1)C1=NC(=CC=C1)C1OCCO1 | C11H10N2O2S
